US07932262B2
Step 5. 8-Bromo-2-chloro-6-fluoroquinazoline
A 0.5M suspension of 8-bromo-6-fluoroquinazolin-2-ol in phosphorus oxychloride was heated to 110° C. in an oil bath. The suspension was turned to a brown color solution in 20 min. LCMS data showed that the reaction was complete after 1 h. The phosphorus oxychloride was removed by concentration. The residue was mixed with ice water, and adjusted pH to 7 by adding sodium bicarbonate. Reaction mixture was extracted with ethyl acetate. Combined organic phase was washed with water, brine, dried over sodium sulfate and concentrated to give desired product in 89% yield. ES/MS m/z 261/263 (MH+).

reactant | 8-bromo-6-fluoroquinazolin-2-ol | BrC=1C=C(C=C2C=NC(=NC12)O)F | C8H4BrFN2O
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 8-Bromo-2-chloro-6-fluoroquinazoline | 89% yield | BrC=1C=C(C=C2C=NC(=NC12)Cl)F | C8H3BrClFN2
